US09283224B2
Step 2: 5-(2-Aminopyrimidin-4-yl)-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid
Ethyl 5-(2-aminopyrimidin-4-yl)-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate (1.0 g, 2.43 mmol) was treated with a 1.5 M solution of potassium hydroxide in 95% EtOH (32.4 mL, 20 eq) under reflux for 20 h. After cooling, the residue was concentrated, dissolved in water and washed with DCM. To the aqueous phase cooled to 5° C., a solution of HCl 2 N was added, under agitation. The resulting precipitate was collected by filtration to give the title compound (0.88 g, 95%).

reactant | Ethyl 5-(2-aminopyrimidin-4-yl)-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate | 2.43 mmol, 1.0 g | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)C(F)(F)F)Cl)C(=O)OCC | C18H14ClF3N4O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | EtOH | 32.4 mL, 20 eq | CCO | C2H6O
product | 5-(2-Aminopyrimidin-4-yl)-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid | 0.88 g, 95% | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)C(F)(F)F)Cl)C(=O)O | C16H10ClF3N4O2
